US07858632B2
To a stirring solution of 2-Isopropyl-4-methoxy-5-piperazin-1-yl-phenol (0.47 g, 1.88 mmol) in dichloromethane at 0° C. under nitrogen was added triethylamine (0.26 mL, 1.89 mmol), followed by methanesulfonyl chloride (0.15 mL, 1.89 mmol). The reaction mixture was stirred at 0° C. for five minutes, and then allowed to warm to room temperature. The reaction mixture was partitioned between dichloromethane and water, and the organic layer was separated, washed with water, dried (MgSO4), filtered, and evaporated under reduced pressure. The residue was purified via flash chromatography (hexanes:EtOAc 3:2) to afford 0.1 g (16% ) of 2-Isopropyl-5-(4-methanesulfonyl-piperazin-1-yl)-4-methoxy-phenol as an oil.

reactant | 2-Isopropyl-4-methoxy-5-piperazin-1-yl-phenol | 1.88 mmol, 0.47 g | C(C)(C)C1=C(C=C(C(=C1)OC)N1CCNCC1)O | C14H22N2O2
reactant | triethylamine | 1.89 mmol, 0.26 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 1.89 mmol, 0.15 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | ClCCl | CH2Cl2
product | 2-Isopropyl-5-(4-methanesulfonyl-piperazin-1-yl)-4-methoxy-phenol | 0.1 g, 16% | C(C)(C)C1=C(C=C(C(=C1)OC)N1CCN(CC1)S(=O)(=O)C)O | C15H24N2O4S
